US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethyl-phenyl}-ethyl)amino]-propane dihydrochloride
This compound was prepared analogous to Example 5(b) by reaction of 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane with N-methyl-N-[2-(3,4-dimethyl-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-N-[2-(3,4-dimethyl-phenyl)-ethyl]-amine | CNCCC1=CC(=C(C=C1)C)C | C11H17N
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethyl-phenyl}-ethyl)amino]-propane dihydrochloride | Cl.Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)C)C)C)=O)C=C1OC | InChI=1S/C26H36N2O3.2ClH/c1-19-7-8-21(15-20(19)2)9-13-27(3)11-6-12-28-14-10-22-16-24(30-4)25(31-5)17-23(22)18-26(28)29;;/h7-8,15-17H,6,9-14,18H2,1-5H3;2*1H
